.title 290W RMS FOR 4-OHMS CLASS-H AUDIO POWER AMPLIFIER - DEVELOPMENT STEP 1
.include "spice_models/model.lib"
V106 +24V 0 DC 24V
V107 0 -24V DC 24V
V104 +15V 0 DC 15V
V102 +63V 0 DC 63V
V103 0 -63V DC 63V
V105 0 -15V DC 15V
R_GND1 INPUT_GND 0 1
R_LOAD1 VPOUT 0 4
V101 MAIN_IN 0 dc 0 ac 1.44 sin(0 1.44 1k 0 0)
R604 Net-_Q601-Pad1_ -63V 1.5k
R601 Net-_R601-Pad1_ -63V 15k
Q601 Net-_Q601-Pad1_ Net-_R602-Pad2_ Net-_Q601-Pad3_ 2N5401
R602 -24V Net-_R602-Pad2_ 10k
R603 -24V Net-_Q601-Pad3_ 1.5k
D601 Net-_R601-Pad1_ VMOUT 1N4736
D602 Net-_R602-Pad2_ Net-_R601-Pad1_ BAV21
Q411 L_VSW DRVN Net-_Q411-Pad3_ 2SA1943
R426 VMOUT Net-_Q411-Pad3_ 0.12
Q410 H_VSW DRVP Net-_Q410-Pad3_ 2SC5200
R425 Net-_Q410-Pad3_ VMOUT 0.12
D701 Net-_D701-Pad1_ Net-_D701-Pad2_ 1N4753
L401 VMOUT VPOUT 1uH
C408 Net-_C408-Pad1_ 0 0.1uF
R427 VMOUT Net-_C408-Pad1_ 10
R607 Net-_Q605-Pad2_ Net-_R607-Pad2_ 1.5k
Q602 Net-_R606-Pad2_ Net-_Q601-Pad1_ Net-_R605-Pad1_ 2N5551
R608 Net-_Q605-Pad2_ -63V 1.5k
R605 Net-_R605-Pad1_ -63V 1.5k
R606 -24V Net-_R606-Pad2_ 1.5k
Q603 Net-_Q605-Pad2_ Net-_R606-Pad2_ -24V 2N5401
D603 L_VSW -24V MURF1560
Q604 0 Net-_R607-Pad2_ Net-_Q604-Pad3_ 2N5551
XQ601 L_VSW Net-_Q604-Pad3_ -63V IRF540
D604 -63V Net-_R607-Pad2_ 1N4742
Q605 -63V Net-_Q605-Pad2_ Net-_Q604-Pad3_ 2N5401
Q409 -63V VASN DRVN MJE15033
D416 L_VSW DRVN 1N4007
Q502 Net-_R506-Pad1_ Net-_R504-Pad2_ H_VBST 2N5401
R504 H_VBST Net-_R504-Pad2_ 1.5k
D506 +63V H_VBST 1N4007
Q503 H_VBST Net-_R506-Pad2_ Net-_XQ501-Pad2_ 2N5551
Q504 H_VSW Net-_R506-Pad1_ Net-_XQ501-Pad2_ 2N5401
XQ501 +63V Net-_XQ501-Pad2_ H_VSW IRF540
R701 H_VSW Net-_D701-Pad2_ 22k
R702 H_VSW Net-_Q701-Pad1_ 22k
R507 Net-_R506-Pad1_ H_VSW 1.5k
R506 Net-_R506-Pad1_ Net-_R506-Pad2_ 1.5k
D507 H_VSW Net-_R506-Pad2_ 1N4742
D415 DRVP H_VSW 1N4007
Q701 Net-_Q701-Pad1_ Net-_D701-Pad1_ L_VSW 2N5551
R409 0 Net-_D407-Pad1_ 47k
Q406 VASN Net-_D413-Pad1_ VAS_EDN MJE340
Q402 Net-_D404-Pad2_ Net-_D407-Pad1_ Net-_Q402-Pad3_ MJE340
R418 VAS_EDN -63V 220
R405 INPUT_GND 0 10
R417 Net-_D413-Pad2_ -63V 220
D413 Net-_D413-Pad1_ Net-_D413-Pad2_ 1N4007
R402 INPUT_GND REF 12k
R4042 NFB Net-_C403-Pad1_ 3.9k
R403 VMOUT NFB 12k
R4041 NFB Net-_C403-Pad1_ 390
C403 Net-_C403-Pad1_ INPUT_GND 220uF
XU401 unconnected-_U401-Pad1_ NFB REF -15V Net-_C404-Pad2_ OP +15V Net-_C404-Pad1_ NE5534
C411 0 -63V 0.1uF
C412 0 -63V 10uF
R410 Net-_Q402-Pad3_ -63V 120
D407 Net-_D407-Pad1_ Net-_D407-Pad2_ 1N4007
D408 Net-_D407-Pad2_ -63V 1N4007
C402 INPUT_GND REF 220pF
R416 VASN VASGCTLN 12k
R415 VASGCTLN Net-_D412-Pad2_ 560
Q405 Net-_D413-Pad1_ Net-_D404-Pad2_ VASGCTLN MJE350
D412 0 Net-_D412-Pad2_ 1N4007
C407 VASN Net-_D413-Pad1_ 82pF
R401 Net-_C401-Pad2_ REF 390
C401 MAIN_IN Net-_C401-Pad2_ 10uF
C410 +63V 0 10uF
C409 +63V 0 0.1uF
R422 VASP Net-_R421-Pad1_ 5k
R421 Net-_R421-Pad1_ Net-_Q407-Pad2_ 560
RT401 VASP Net-_R421-Pad1_ 5k
R423 DRVP VMOUT 120
R424 VMOUT DRVN 120
R420 VASP Net-_Q407-Pad2_ 560
R419 Net-_Q407-Pad2_ VASN 1.2k
Q407 VASN Net-_Q407-Pad2_ VASP MJE350
C406 VASP VASN 0.1uF
D402 Net-_D401-Pad2_ OP 1N4007
D411 VASGCTLP Net-_D411-Pad2_ 1N4007
D401 Net-_D401-Pad1_ Net-_D401-Pad2_ 1N4007
R406 Net-_D401-Pad1_ Net-_D404-Pad2_ 1k
D414 Net-_D411-Pad2_ VASGCTLN 1N4007
C404 Net-_C404-Pad1_ Net-_C404-Pad2_ 33pF
D403 OP Net-_D403-Pad2_ 1N4007
D404 Net-_D403-Pad2_ Net-_D404-Pad2_ 1N4007
Q408 +63V VASP DRVP MJE15032
R413 +63V Net-_D410-Pad1_ 220
D410 Net-_D410-Pad1_ Net-_D410-Pad2_ 1N4007
R414 +63V VAS_EDP 220
Q404 VASP Net-_D410-Pad2_ VAS_EDP MJE350
C405 VASP Net-_D410-Pad2_ 82pF
Q403 Net-_D410-Pad2_ Net-_D401-Pad1_ VASGCTLP MJE340
D409 Net-_D409-Pad1_ 0 1N4007
R411 VASGCTLP Net-_D409-Pad1_ 560
R412 VASGCTLP VASP 12k
R408 +63V Net-_Q401-Pad3_ 120
D406 +63V Net-_D405-Pad1_ 1N4007
R407 Net-_D405-Pad2_ 0 47k
Q401 Net-_D401-Pad1_ Net-_D405-Pad2_ Net-_Q401-Pad3_ MJE350
D405 Net-_D405-Pad1_ Net-_D405-Pad2_ 1N4007
R503 Net-_R503-Pad1_ +24V 1.5k
Q501 Net-_R504-Pad2_ Net-_Q501-Pad2_ Net-_R503-Pad1_ 2N5551
D502 Net-_D501-Pad2_ Net-_Q501-Pad2_ BAV21
R502 Net-_Q501-Pad2_ +24V 10k
D501 VMOUT Net-_D501-Pad2_ 1N4736
D503 +24V H_VSW MURF1560
D504 H_VSW Net-_R505-Pad2_ 1N4749
C501 Net-_R505-Pad2_ H_VSW 10uF
R501 +63V Net-_D501-Pad2_ 15k
R505 +63V Net-_R505-Pad2_ 15k
D505 Net-_R505-Pad2_ H_VBST 1N4007
.tran 0.1u 3m 1m
.end
